US04025632
1-Aminopyridinium chloride (104 parts) and p-chlorobenzoyl chloride (150 parts) were heated in xylene (750 parts) at 140° C. for 4 hours. The solid product was filtered off and recrystallised from n-butanol to give 1-(p-chlorobenzamido)pyridinium chloride (209 parts, 97% yield), melting point 241° C.

reactant | 1-Aminopyridinium chloride | [Cl-].N[N+]1=CC=CC=C1
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(p-chlorobenzamido)pyridinium chloride | 97% yield | [Cl-].ClC1=CC=C(C(=O)N[N+]2=CC=CC=C2)C=C1 | InChI=1S/C12H9ClN2O.ClH/c13-11-6-4-10(5-7-11)12(16)14-15-8-2-1-3-9-15;/h1-9H;1H
